US09340556B2
To a suspension of 6-(hydroxymethyl)-3-((4-methoxybenzyl)oxy)-1-methylquinolin-4(1H)-one (1.5 g, 4.61 mmol) in dichloromethane (DCM) (80 mL) at room temperature was added Dess-Martin periodinane (2.347 g, 5.53 mmol). The reaction mixture soon turned into a clear brown solution and was stirred at room temperature for 1 h. Saturated sodium bicarbonate solution was then added, and the mixture was extracted with dichloromethane. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by automatic silica gel column chromatography (Combiflash RF) eluting with ethyl acetate/hexanes (0-100%) to afford 3-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydroquinoline-6-carbaldehyde (1.1 g, 3.40 mmol, 73.8% yield) as a yellow solid. LCMS: (M+H)+: 324.0

reactant | 6-(hydroxymethyl)-3-((4-methoxybenzyl)oxy)-1-methylquinolin-4(1H)-one | 4.61 mmol, 1.5 g | OCC=1C=C2C(C(=CN(C2=CC1)C)OCC1=CC=C(C=C1)OC)=O | C19H19NO4
reactant | Dess-Martin periodinane | 5.53 mmol, 2.347 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 3-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydroquinoline-6-carbaldehyde | 3.40 mmol, 1.1 g, 73.8% yield | COC1=CC=C(COC2=CN(C3=CC=C(C=C3C2=O)C=O)C)C=C1 | C19H17NO4
